US09388189B2
(S)-2-(1-((5-(1-(2-(Dimethylamino)ethyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (43 mg, 0.07 mmol) and 2-chloro-N,N-dimethylethanamine chlorhydrate (43 mg, 0.30 mmol) were dissolved in DMF (3 ml) and cesium carbonate (240 mg, 0.74 mmol) was added. After stirring the mixture at 75° C. for 3.5 h, the solvent was evaporated under reduced pressure and the residue was suspended in water and extracted with dichloromethane (×3). The organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 3%, dichloromethane-methanol) to obtain 31 mg (57% yield) of the title compound as a brown solid. Purity 90%.

reactant | (S)-2-(1-((5-(1H-Pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 43 mg | N1N=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C30H35N9O2Si
reactant | 2-chloro-N,N-dimethylethanamine | ClCCN(C)C | C4H10ClN
reactant | cesium carbonate | 0.74 mmol, 240 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (S)-2-(1-((5-(1-(2-(Dimethylamino)ethyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 31 mg, 57% yield | CN(CCN1N=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)C | C34H44N10O2Si
